US07683060B2
Step 2. methyl 4-{3-[1-(1,3-benzothiazol-6-yl)cyclopropyl][1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl}benzoate
A mixture of 1-(1,3-benzothiazol-6-yl)cyclopropanecarbaldehyde (80.0 mg, 0.39 mmol) and methyl 4-(3-hydrazino-1,2,4-triazin-6-yl)benzoate (96.5 mg, 0.394 mol) in ethanol (2.7 mL) and acetic acid (0.53 mL) was stirred at RT for 3 h. The mixture was concentrated. The residue was dissolved in DCM (5 mL), followed by addition iodobenzene diacetate (150 mg, 0.47 mmol). The mixture was stirred at RT for 6 h, and quenched with saturated sodium bicarbonate (25 mL). The mixture was extracted with ethyl acetate (3×40 mL). The combined organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was flash chromatographed on a silica gel column with 40% ethyl acetate in DCM to afford the desired product. Analytical LCMS: (M+H)+=429.0.

reactant | 1-(1,3-benzothiazol-6-yl)cyclopropanecarbaldehyde | 0.39 mmol, 80.0 mg | S1C=NC2=C1C=C(C=C2)C2(CC2)C=O | C11H9NOS
reactant | methyl 4-(3-hydrazino-1,2,4-triazin-6-yl)benzoate | 0.394 mol, 96.5 mg | N(N)C=1N=NC(=CN1)C1=CC=C(C(=O)OC)C=C1 | C11H11N5O2
reactant | iodobenzene diacetate | 0.47 mmol, 150 mg | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
solvent | ethanol | 2.7 mL | C(C)O | C2H6O
solvent | acetic acid | 0.53 mL | C(C)(=O)O | C2H4O2
product | methyl 4-{3-[1-(1,3-benzothiazol-6-yl)cyclopropyl][1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl}benzoate | S1C=NC2=C1C=C(C=C2)C2(CC2)C2=NN=C1N2N=C(C=N1)C1=CC=C(C(=O)OC)C=C1 | C22H16N6O2S
